US06140317
4-(1,2,3,4-Tetrahydroquinolin-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine
This product is prepared in a manner analogous to that described in Example 1 from 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine and 1,2,3,4-tetrahydroquinoline (4 equivalents, Fluka, Buchs, Switzerland). M.p: 263-264° C.; FAB-MS: (M+H)+ =279 (corresponds to C17H18N4); Rf value (toluene-acetone--(4:6))=0.29.

reactant | 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2C)C | C8H8ClN3
reactant | 1,2,3,4-tetrahydroquinoline | 4 equivalents | N1CCCC2=CC=CC=C12 | C9H11N
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
product | 4-(1,2,3,4-Tetrahydroquinolin-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | N1(CCCC2=CC=CC=C12)C=1C2=C(N=CN1)NC(=C2C)C | C17H18N4
